US04973597
6-(Methylamino)-N-(2,6-dimethylphenyl)-3-pyridinecarboxamide
A solution of 5 g of 6-chloro-N-(2,6-dimethylphenyl)-3-pyridinecarboxamide and 6 g of methylamine (from a 40% aqueous solution) in 100 ml of ethanol were heated at 250° C. in a closed reaction vessel for 72 hours. The reaction mixture was cooled to room temperature, solvents were removed under reduced pressure, and the product was recrystallized from ethanol, providing 2.8 g of the desired title product, m.p. 207°-209° C.

reactant | 6-chloro-N-(2,6-dimethylphenyl)-3-pyridinecarboxamide | 5 g | ClC1=CC=C(C=N1)C(=O)NC1=C(C=CC=C1C)C | C14H13ClN2O
reactant | methylamine | 6 g | CN | CH5N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-(Methylamino)-N-(2,6-dimethylphenyl)-3-pyridinecarboxamide | 2.8 g | CNC1=CC=C(C=N1)C(=O)NC1=C(C=CC=C1C)C | C15H17N3O
